US07390835B2
To a solution of 250 mg (0.877 mmol) of 3-(4-chlorophenyl)-2(S)(3-cyanophenyl)-1(S)-methyl-propylamine in 3 mL of dichloroethane, 134 μL (0.88 mmol) of 2-hydroxy-2-methylpropiophenone and 280 mg (1.32 mmol) of sodium triacetoxyborohydride were added. After stirring for 3 hr, the reaction was quenched with water and the organic layer was removed with a pipet. This layer was purified by prep TLC using 50% EtOAc/hexane as an eluant to isolate 3-(1(S)-(4-chlorobenzyl)-2(S)-((2-hydroxy-2-methyl-1-phenylpropyl)amino)propyl)benzonitrile (diastereomer A) as a higher Rf isomer (LC-MS: m/e=433 (M+1), 3.09 min) and 3-(1(S)-(4-Chlorobenzyl)-2(S)-((2-hydroxy-2-methyl-1-phenylpropyl)amino)propyl)benzonitrile (diastereomer B) as a lower Rf isomer. LC-MS: m/e=433 (M+1), 3.09 min.

reactant | 3-(4-chlorophenyl)-2(S)(3-cyanophenyl)-1(S)-methyl-propylamine | 0.877 mmol, 250 mg | ClC1=CC=C(C=C1)C[C@H]([C@H](C)N)C1=CC(=CC=C1)C#N | C17H17ClN2
reactant | 2-hydroxy-2-methylpropiophenone | 0.88 mmol, 134 μL | OC(C(=O)C1=CC=CC=C1)(C)C | C10H12O2
reactant | sodium triacetoxyborohydride | 1.32 mmol, 280 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | 3-(1(S)-(4-Chlorobenzyl)-2(S)-((2-hydroxy-2-methyl-1-phenylpropyl)amino)propyl)benzonitrile | ClC1=CC=C(C[C@H]([C@H](C)NC(C(C)(C)O)C2=CC=CC=C2)C=2C=C(C#N)C=CC2)C=C1 | C27H29ClN2O
